US08247415B2
Step A: Ethyl 2-methyl-4,5,6,7-tetrahydro-1,3-benzothiazole-4-carboxylate
To a solution of ethyl 2-oxocyclohexanecarboxylate (15 g, 88 mmol) in anhydrous diethyl ether (40 mL) cooled at 0° C. was added bromine (4.5 mL, 88 mmol) dropwise over 15 mins. After complete addition mixture allowed to warm to room temp over 90 min. Mixture diluted with EtOAc (100 mL) and washed with sat. NaHCO3, sat. NaCl, dried over MgSO4, filtered and evaporated. Residue taken up in ethanol (100 mL) and thioacetamide (6.6 g, 88 mmol) added. Mixture stirred at room temp for 1 h then at reflux overnight. Mixture evaporated and residue partitioned between sat. NaHCO3 and DCM. Organic layer dried over MgSO4, filtered and evaporated. Residue purified by MPLC (Biotage Horizon: FLASH 65i) eluent: 100% Hexanes (500 mL), gradient 0 to 25% EtOAc in Hexanes (1200 mL) then 25% EtOAc in Hexanes (1200 mL) to give the title compound (6.14 g, 31%) as a pale orange oil. 1HNMR (500 MHz, CDCl3) δ: 4.22 (q, J=7.1, 2H), 3.84 (t, J=5.5, 1H), 2.80 (m, 1H), 2.73 (m, 1H), 2.65 (s, 3H), 2.18 (m, 1H), 2.11-1.95 (m, 2H), 1.85 (m, 1H), 1.29 (t, J=7.1, 3H).

reactant | ethyl 2-oxocyclohexanecarboxylate | 88 mmol, 15 g | O=C1C(CCCC1)C(=O)OCC | C9H14O3
reactant | bromine | 88 mmol, 4.5 mL | BrBr | Br2
reactant | thioacetamide | 88 mmol, 6.6 g | C(C)(=S)N | C2H5NS
solvent | diethyl ether | 40 mL | C(C)OCC | C4H10O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | Ethyl 2-methyl-4,5,6,7-tetrahydro-1,3-benzothiazole-4-carboxylate | 6.14 g, 31% | CC=1SC2=C(N1)C(CCC2)C(=O)OCC | C11H15NO2S
